US07618975B2
(4-Isopropoxy-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine
The title compound was prepared from (4-isopropoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine (164.3 mg, 0.56 mmol) and methyl iodide (0.25 ml, 3.92 mmol) by a procedure similar to example 36. 1H NMR (CDCl3): 7.73 (d, J=7.8 Hz, 1H), 7.54-7.49 (m, 1H), 7.10-6.86 (m, 6H), 4.57-4.52 (m, 1H), 3.58 (s, 3H), 2.72 (s, 3H), 1.36 (d, J=6 Hz, 6H).

reactant | (4-isopropoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine | 0.56 mmol, 164.3 mg | C(C)(C)OC1=CC=C(C=C1)NC1=NC(=NC2=CC=CC=C12)C | C18H19N3O
reactant | methyl iodide | 3.92 mmol, 0.25 ml | CI | CH3I
product | (4-Isopropoxy-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine | C(C)(C)OC1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C | C19H21N3O
